US07618975B2
(3-Fluoro-4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine
The title compound was prepared from (3-fluoro-4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine (250 mg, 0.88 mmol) and methyl iodide (0.39 ml, 6.18 mmol) by a procedure similar to example 36. 1H NMR (CDCl3): 7.76 (d, J=8.4 Hz, 1H), 7.59-7.53 (m, 1H), 7.09-6.82 (m, 5H), 3.91 (s, 3H), 3.58 (s, 3H), 2.73 (s, 3H).

reactant | (3-fluoro-4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine | 0.88 mmol, 250 mg | FC=1C=C(C=CC1OC)NC1=NC(=NC2=CC=CC=C12)C | C16H14FN3O
reactant | methyl iodide | 6.18 mmol, 0.39 ml | CI | CH3I
product | (3-Fluoro-4-methoxy-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine | FC=1C=C(C=CC1OC)N(C)C1=NC(=NC2=CC=CC=C12)C | C17H16FN3O
